US08242153B2
In analogy to example 45c (S)-4-[3-(4-chloro-phenyl)-3-methoxy-propyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester was reacted with trifluoroacetic acid to give (S)-2-amino-5-(4-chloro-phenyl)-5-methoxy-pentan-1-ol. Yellow oil. MS (ISP): 246.1 ([{37Cl}M+H]+), 244.1 ([{35Cl}M+H]+).

reactant | (S)-4-[3-(4-chloro-phenyl)-3-methoxy-propyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCC(OC)C1=CC=C(C=C1)Cl)(C)C | C20H30ClNO4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-2-amino-5-(4-chloro-phenyl)-5-methoxy-pentan-1-ol | N[C@H](CO)CCC(OC)C1=CC=C(C=C1)Cl | C12H18ClNO2
